### PR TITLE
[Merged by Bors] - feat(RingTheory/Flat/FaithfullyFlat): faithful flatness in terms of exactness

### PR DESCRIPTION
**Pull request by jjaassoonn**
$M$ is faithfully flat if and only if $M$ is flat and $- \otimes M$ preserves and reflects short exact sequences

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 1]
```diff
@@ -163,6 +169,175 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+section complex
+
+private lemma range_le_ker_of_exact_rTensor [fl : FaithfullyFlat R M]
+    ⦃N1 N2 N3 : Type*⦄
+    [AddCommGroup N1] [Module R N1]
+    [AddCommGroup N2] [Module R N2]
+    [AddCommGroup N3] [Module R N3]
+    (l12 : N1 →ₗ[R] N2) (l23 : N2 →ₗ[R] N3)
+    (ex : Function.Exact (l12.rTensor M) (l23.rTensor M)) :
+    LinearMap.range l12 ≤ LinearMap.ker l23 := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:181]: Nitpick, but I would much prefer the following formatting:
```suggestion
    ⦃N₁ : Type*⦄ [AddCommGroup N₁] [Module R N₁]
    ⦃N₂ : Type*⦄ [AddCommGroup N₂] [Module R N₂]
    ⦃N₃ : Type*⦄ [AddCommGroup N₃] [Module R N₃]
    (f : N₁ →ₗ[R] N₂) (g : N₂ →ₗ[R] N₃)
    (ex : Function.Exact (f.rTensor M) (g.rTensor M)) :
    LinearMap.range f ≤ LinearMap.ker g := by
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 2]
```diff
@@ -163,6 +169,175 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    obtain ⟨c, hc, rfl⟩ := mem
+    choose b a hy using hc
+    let r :  ⦃a : E ⊗[R] M⦄ → a ∈ ↑c.support → R := fun a ha =>
+      Submodule.mem_span_singleton.1 (b ha).2 |>.choose
+    have hr : ∀ ⦃i : E ⊗[R] M⦄ (hi : i ∈ c.support), b hi =
+        r hi • ⟨l23 (l12 y), Submodule.mem_span_singleton_self _⟩ := by
+      intro i hi
+      ext
+      exact Submodule.mem_span_singleton.1 (b hi).2 |>.choose_spec.symm
+
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:206]: I think this empty line is here to signify a "break" in the proof. Please use some comments to guide the reader a bit.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 3]
```diff
@@ -163,6 +169,175 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  exact Submodule.nontrivial_iff_ne_bot.1 (by aesop) eq0
+
+lemma rTensor_reflects_exact [fl : FaithfullyFlat R M]
+    (N1 N2 N3 : Type*)
+    [AddCommGroup N1] [Module R N1]
+    [AddCommGroup N2] [Module R N2]
+    [AddCommGroup N3] [Module R N3]
+    (l12 : N1 →ₗ[R] N2) (l23 : N2 →ₗ[R] N3)
+    (ex : Function.Exact (l12.rTensor M) (l23.rTensor M)) :
+    Function.Exact l12 l23 := LinearMap.exact_iff.2 <| by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:232]: This proof is also quite long, can you please comment it a bit?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:181]: In fact, it looks to me like you could use `variable` to simplify this statement and the ones below.

Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: Indeed

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: I have added some comments about the proof

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:269]: I have added some comments about the proof

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 4]
```diff
@@ -25,6 +25,12 @@ A module `M` over a commutative ring `R` is *faithfully flat* if it is flat and
   is flat and tensoring with `M` is faithful, i.e. `N ≠ 0` implies `N ⊗ M ≠ 0`.
 - `Module.FaithfullyFlat.iff_flat_and_lTensor_faithful`: an `R`-module `M` is faithfully flat iff it
   is flat and tensoring with `M` is faithful, i.e. `N ≠ 0` implies `M ⊗ N ≠ 0`.
+- `Module.FaithfullyFlat.iff_iff_rTensor_exact`: an `R`-module `M` is faithfully flat iff tensoring
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:28]: I think this name is funny, but also kind of bad. Probably `.iff_exact_iff_rTensor_exact` is better (it just feels less confusing than `iff_iff`). Similarly `iff_iff_lTensor_exact`.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 5]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+In this section we prove that an `R`-module `M` is faithfully flat iff tensoring with `M`
+preserves and reflects exact sequences.
+
+Let `N₁ -l₁₂-> N₂ -l₂₃-> N₃` be two linear maps.
+- We first show that if `N₁ ⊗ M -> N₂ ⊗ M -> N₃ ⊗ M` is exact, then `N₁ -l₁₂-> N₂ -l₂₃-> N₃` is a
+  complex, i.e. `range l₁₂ ≤ ker l₂₃`.
+  This is `range_le_ker_of_exact_rTensor`.
+- Then in `rTensor_reflects_exact`, we show `ker l₂₃ ≤ range l₁₂` by considering the chohomology
+  `ker l₂₃ ⧸ range l₁₂`.
+This shows that when `M` is faithfully flat, `- ⊗ M` relfects exact sequences. For details, see
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:186]:
```suggestion
This shows that when `M` is faithfully flat, `- ⊗ M` reflects exact sequences. For details, see
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 6]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+variable ⦃N1 : Type*⦄ [AddCommGroup N1] [Module R N1]
+variable ⦃N2 : Type*⦄ [AddCommGroup N2] [Module R N2]
+variable ⦃N3 : Type*⦄ [AddCommGroup N3] [Module R N3]
+variable (l12 : N1 →ₗ[R] N2) (l23 : N2 →ₗ[R] N3)
+
+/--
+If `M` is faithfully flat, then exactness of `N₁ ⊗ M -> N₂ ⊗ M -> N₃ ⊗ M` implies that the
+composition `N₁ -> N₂ -> N₃` is `0`.
+
+Implementation details, please use `rTensor_reflects_exact` instead.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:207]:
```suggestion
Implementation detail, please use `rTensor_reflects_exact` instead.
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 7]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+-/
+lemma range_le_ker_of_exact_rTensor [fl : FaithfullyFlat R M]
+    (ex : Function.Exact (l12.rTensor M) (l23.rTensor M)) :
+    LinearMap.range l12 ≤ LinearMap.ker l23 := by
+  -- let n1 ∈ N1, we need to show l23 (l12 n1) = 0, suppose this is not the case
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:212]:
```suggestion
  -- let `n1 ∈ N1`. We need to show `l23 (l12 n1) = 0`. Suppose this is not the case.
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 8]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  rintro _ ⟨n1, rfl⟩
+  show l23 (l12 n1) = 0
+  by_contra! hn1
+  -- denote `E` as the submodule spanned by `l23 (l12 n1)`, then by `l23 (l12 n1) ≠ 0`, we have
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:216]:
```suggestion
  -- Let `E` be the submodule spanned by `l23 (l12 n1)`. Then because `l23 (l12 n1) ≠ 0`, we have
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 9]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  -- `E ≠ 0`
+  let E : Submodule R N3 := Submodule.span R {l23 (l12 n1)}
+  have hE : Nontrivial E :=
+    ⟨0, ⟨⟨l23 (l12 n1), Submodule.mem_span_singleton_self _⟩, Subtype.coe_ne_coe.1 hn1.symm⟩⟩
+
+  -- since `N1 ⊗ M -> N2 ⊗ M -> N3 ⊗ M` is exact, we have `l23 (l12 n1) ⊗ₜ[R] m = 0` for all `m : M`
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:222]:
```suggestion
  -- Since `N1 ⊗ M -> N2 ⊗ M -> N3 ⊗ M` is exact, we have `l23 (l12 n1) ⊗ₜ[R] m = 0` for all `m : M`.
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 10]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  have eq1 : ∀ (m : M), l23 (l12 n1) ⊗ₜ[R] m = 0 := fun m ↦
+    ex.apply_apply_eq_zero (n1 ⊗ₜ[R] m)
+  -- Then `E ⊗ M = 0` becase:
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:225]:
```suggestion
  -- Then `E ⊗ M = 0` because:
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 11]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    choose b a hy using hc
+    let r :  ⦃a : E ⊗[R] M⦄ → a ∈ ↑c.support → R := fun a ha =>
+      Submodule.mem_span_singleton.1 (b ha).2 |>.choose
+    have hr : ∀ ⦃i : E ⊗[R] M⦄ (hi : i ∈ c.support), b hi =
+        r hi • ⟨l23 (l12 n1), Submodule.mem_span_singleton_self _⟩ := by
+      intro i hi
+      ext
+      exact Submodule.mem_span_singleton.1 (b hi).2 |>.choose_spec.symm
+    -- Since `x ∈ E ⊗ M`, since `M` is flat and `E -> N1` is injective, we only need to check the
+    -- equality in `N1 ⊗ M`. we write `x = ∑ μᵢ • (l23 (l12 n1)) ⊗ mᵢ = ∑ μᵢ • 0 = 0`
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:242]:
```suggestion
    -- equality in `N1 ⊗ M`. We write `x = ∑ μᵢ • (l23 (l12 n1)) ⊗ mᵢ = ∑ μᵢ • 0 = 0`
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:258]: Hah! I was reviewing 15014 earlier today and had exactly the same comment. Thanks for the comments!

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 12]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+
+  -- but `E ⊗ M = 0` implies `E = 0` because `M` is faithfully flat and this is a contradiction.
+  exact not_subsingleton_iff_nontrivial.2 inferInstance <| fl.rTensor_reflects_triviality R M E
+
+lemma rTensor_reflects_exact [fl : FaithfullyFlat R M]
+    (l12 : N1 →ₗ[R] N2) (l23 : N2 →ₗ[R] N3)
+    (ex : Function.Exact (l12.rTensor M) (l23.rTensor M)) :
+    Function.Exact l12 l23 := LinearMap.exact_iff.2 <| by
+  have complex : LinearMap.range l12 ≤ LinearMap.ker l23 := range_le_ker_of_exact_rTensor R M _ _ ex
+  -- by previous lemma, we need only to show `ker l23 ≤ range l12`.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:260]:
```suggestion
  -- By the previous lemma, we need only to show `ker l23 ≤ range l12`.
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 13]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  refine le_antisymm ?_ complex
+  -- We consider the cohomology of `N1 -> N2 -> N3`, i.e. let `H := ker l23 ⧸ range l12`. It is
+  -- enough to show `H = 0` because `H = 0` implies `x ∈ range l12`.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:263]: This is a bit weird. The previous lemma showed range <= ker, and hence H makes sense. But I would not say that H = 0 implies ker <= range; I would say that H = 0 implies ker = range. How about

-- By the previous lemma we have that `range l12 ≤ ker l23` and hence the quotient `H := ker l23 ⧸ range l12`
-- makes sense. Hence our goal `ker l23 = range l12` follows from the claim that `H = 0`.

And do you need to `refine le_antisymm ?_ complex`?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 14]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    have eq0 : (Submodule.mkQ _ ⟨x, hx⟩ : H) = 0 := triv_coh.elim _ _
+    obtain ⟨⟨y, hy⟩, eq0⟩ := Submodule.Quotient.mk_eq_zero _ |>.1 eq0
+    simp only [Subtype.ext_iff, Submodule.coe_inclusion] at eq0
+    exact eq0 ▸ hy
+
+  -- Since `M` is faithfully flat, we need only to show that `H ⊗ M` is trivial.
+  suffices Subsingleton (H ⊗[R] M) from rTensor_reflects_triviality R M H
+  let e : H ⊗[R] M ≃ₗ[R] _ := TensorProduct.quotientTensorEquiv _ _
+  rw [e.toEquiv.subsingleton_congr, Submodule.subsingleton_quotient_iff_eq_top, eq_top_iff]
+  -- note that `H ⊗ M ≅ (ker l23 ⊗ M) ⧸ (range l12 ⊗ M)`, so we only need to show that
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:276]:
```suggestion
  -- Note that `H ⊗ M ≅ (ker l23 ⊗ M) ⧸ (range l12 ⊗ M)`, so we only need to show that
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 15]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  -- `ker l23 ⊗ M ≤ range l12 ⊗ M` as submodules of `ker l23 ⊗ M`.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:277]: Does this make sense? Do you mean submodules of something else? N2 tensor M? And again my feeling is that you should be proving equality here. It just looks weird (to me) to keep talking about having to show that B <= A instead of B = A when you have B/A in play meaning that A<=B.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 16]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  set ι : (LinearMap.ker l23) ⊗[R] M →ₗ[R] N2 ⊗[R] M := (Submodule.subtype _).rTensor M with ι_def
+  -- Since `M` is flat and `ker l23 -> N2` is injective, we can compare them as submodules `N2 ⊗ M`.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:279]:
```suggestion
  -- Since `M` is flat and `ker l23 -> N2` is injective, we can compare them as submodules of `N2 ⊗ M`.
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 17]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+      · rintro ⟨x, rfl⟩
+        induction x using TensorProduct.induction_on <;> aesop
+      · rw [LinearMap.exact_iff.1 ex]
+        rintro ⟨x, rfl⟩
+        induction x using TensorProduct.induction_on with
+        | zero => simp
+        | tmul a b =>
+          exact ⟨⟨l12 a, complex (by simp)⟩ ⊗ₜ b, rfl⟩
+        | add x y hx hy => rw [map_add]; exact Submodule.add_mem _ hx hy,
+    LinearMap.rTensor, TensorProduct.map_range_eq_span_tmul, Submodule.span_le]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:294]: I was following along just fine with the commented proof but now it just stopped?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 18]
```diff
@@ -163,6 +169,189 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    (∀ (N1 N2 N3 : Type max u v)
+        [AddCommGroup N1] [Module R N1]
+        [AddCommGroup N2] [Module R N2]
+        [AddCommGroup N3] [Module R N3]
+        (l12 : N1 →ₗ[R] N2) (l23 : N2 →ₗ[R] N3),
+        Function.Exact l12 l23 ↔ Function.Exact (l12.lTensor M) (l23.lTensor M)) :=
+  iff_iff_rTensor_exact _ _ |>.trans <| iff_of_eq <|
+    forall_congr <| fun N1 => forall_congr fun N2 => forall_congr fun N3 =>
+    forall_congr fun _ => forall_congr fun _ => forall_congr fun _ => forall_congr fun _ =>
+    forall_congr fun _ => forall_congr fun _ => forall_congr fun l12 => forall_congr fun l23 =>
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:348]: There must be a better way to do this. This looks awful.

**Review by kbuzzard — APPROVED** [review]
This looks great. I think the comments make a big and positive difference. There are no defs here, only proofs, but the two long ones really deserved comments and now they have them. I'm sure we can do better with that `iff_iff_lTensor_exact` proof.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 18 above)
Comment (mbkybky) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:348]: Maybe it can be simplified by using [forall₅_congr](https://leanprover-community.github.io/mathlib4_docs/Init/PropLemmas.html#forall%E2%82%85_congr)

Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: I introduced a lemma saying `exact (f \ox M) (g \ox M)` iff `exact (M \ox f) (M \ox g)`

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 17 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: more comments is added

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 15 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: I have changed the strategy in this proof, please check if it makes more sense now.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 13 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: Thanks.

> And do you need to refine le_antisymm ?_ complex?

No. Thanks

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 19]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  suffices Subsingleton (H ⊗[R] M) from rTensor_reflects_triviality R M H
+  let e : H ⊗[R] M ≃ₗ[R] _ := TensorProduct.quotientTensorEquiv _ _
+  -- Note that `H ⊗ M` is isomorphic to `ker l12 ⊗ M ⧸ range ((range l12 ⊗ M) -> (ker l23 ⊗ M))`
+  -- So the problem is reduced to proving surjectivity of `range l12 ⊗ M → ker l23 ⊗ M`
+  rw [e.toEquiv.subsingleton_congr, Submodule.subsingleton_quotient_iff_eq_top,
+    LinearMap.range_eq_top]
+  intro x
+  induction x using TensorProduct.induction_on with
+  | zero => exact ⟨0, by simp⟩
+  -- let `x ⊗ m` be an element in `ker l23 ⊗ M`, then `x ⊗ m` is in the kernel of `l23 ⊗ 𝟙M`
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:279]:
```suggestion
  -- let `x ⊗ m` be an element in `ker l23 ⊗ M`, then `x ⊗ m` is in the kernel of `l23 ⊗ 𝟙M`.
```

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 20]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  -- since `N1 ⊗ M -l12 ⊗ M-> N2 ⊗ M -l23 ⊗ M-> N3 ⊗ M` is exact, we have that `x ⊗ m` is in
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:280]:
```suggestion
  -- Since `N1 ⊗ M -l12 ⊗ M-> N2 ⊗ M -l23 ⊗ M-> N3 ⊗ M` is exact, we have that `x ⊗ m` is in
```

**Review by kbuzzard — APPROVED** [review]
This is fine. I've just made a second round of pernickety comments about punctuation etc in the commented proof. I would be happy to delegate this now but won't, only because you're my PhD student so I'd rather someone else merged.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 18 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: Yes this approach is much better!

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 21]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  rintro _ ⟨n1, rfl⟩
+  show l23 (l12 n1) = 0
+  by_contra! hn1
+  -- Let `E` be the submodule spanned by `l23 (l12 n1)`. Then because `l23 (l12 n1) ≠ 0`, we have
+  -- `E ≠ 0`
+  let E : Submodule R N3 := Submodule.span R {l23 (l12 n1)}
+  have hE : Nontrivial E :=
+    ⟨0, ⟨⟨l23 (l12 n1), Submodule.mem_span_singleton_self _⟩, Subtype.coe_ne_coe.1 hn1.symm⟩⟩
+
+  -- Since `N1 ⊗ M -> N2 ⊗ M -> N3 ⊗ M` is exact, we have `l23 (l12 n1) ⊗ₜ[R] m = 0` for all `m : M`
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:222]: This missing period is intentional xd, adding it exceeds 100 char limit by exactly one

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 22]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+On the other hand, if `- ⊗ M` preserves and reflects exact sequences, then `M` is faithfully flat.
+- `M` is flat because `- ⊗ M` preserves exact sequences.
+- We need to show that if `N ⊗ M = 0` then `N = 0`. Consider the sequence `N -0-> N -0-> 0`. After
+  tensoring with `M`, we get `N ⊗ M -0-> N ⊗ M -0-> 0` which is exact because `N ⊗ M = 0`.
+  Since `- ⊗ M` reflects exact sequences, `N = 0`.
+-/
+
+section arbitrary_universe
+
+variable ⦃N1 : Type*⦄ [AddCommGroup N1] [Module R N1]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:198]: Why the semiimplict variables?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 23]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+composition `N₁ -> N₂ -> N₃` is `0`.
+
+Implementation detail, please use `rTensor_reflects_exact` instead.
+-/
+lemma range_le_ker_of_exact_rTensor [fl : FaithfullyFlat R M]
+    (ex : Function.Exact (l12.rTensor M) (l23.rTensor M)) :
+    LinearMap.range l12 ≤ LinearMap.ker l23 := by
+  -- let `n1 ∈ N1`. We need to show `l23 (l12 n1) = 0`. Suppose this is not the case.
+  rintro _ ⟨n1, rfl⟩
+  show l23 (l12 n1) = 0
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:214]: Is it possible to replace this `show` by a `rw`?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 24]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    rw [← TensorProduct.span_tmul_eq_top, mem_span_set] at mem
+    obtain ⟨c, hc, rfl⟩ := mem
+    choose b a hy using hc
+    let r :  ⦃a : E ⊗[R] M⦄ → a ∈ ↑c.support → R := fun a ha =>
+      Submodule.mem_span_singleton.1 (b ha).2 |>.choose
+    have hr : ∀ ⦃i : E ⊗[R] M⦄ (hi : i ∈ c.support), b hi =
+        r hi • ⟨l23 (l12 n1), Submodule.mem_span_singleton_self _⟩ := by
+      intro i hi
+      ext
+      exact Submodule.mem_span_singleton.1 (b hi).2 |>.choose_spec.symm
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:240]: It seems you have more than one goal here, can you use the focusing dot?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 25]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    obtain ⟨y, hy⟩ := mem
+
+    refine ⟨LinearMap.rTensor M (LinearMap.rangeRestrict _ ∘ₗ LinearMap.rangeRestrict l12) y,
+      Module.Flat.rTensor_preserves_injective_linearMap (LinearMap.ker l23).subtype
+      Subtype.val_injective ?_⟩
+    simp only [LinearMap.comp_codRestrict, LinearMap.rTensor_tmul, Submodule.coe_subtype, ← hy]
+    rw [← LinearMap.comp_apply]
+    erw [← LinearMap.rTensor_comp]
+    rw [← LinearMap.comp_apply, ← LinearMap.rTensor_comp]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:297]: Is it possible to avoid the `rfl` here? I mean, bu providing some `rfl` lemma.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 26]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+  | add x y hx hy =>
+    obtain ⟨x, rfl⟩ := hx; obtain ⟨y, rfl⟩ := hy
+    exact ⟨x + y, by simp⟩
+
+lemma lTensor_reflects_exact [fl : FaithfullyFlat R M]
+    (N1 N2 N3 : Type*)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:303]: The variables are already in scope, aren't they? (Anyway the implicitness seems different.)

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 27]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    (ex : Function.Exact (l12.lTensor M) (l23.lTensor M)) :
+    Function.Exact l12 l23 :=
+  rTensor_reflects_exact R M _ _ <| ex.of_ladder_linearEquiv_of_exact
+    (e₁ := TensorProduct.comm _ _ _) (e₂ := TensorProduct.comm _ _ _)
+    (e₃ := TensorProduct.comm _ _ _) (by ext; rfl) (by ext; rfl)
+
+end arbitrary_universe
+
+lemma exact_iff_rTensor_exact [fl : FaithfullyFlat R M]
+    (N1 N2 N3 : Type max u v)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:317]: Same.

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 28]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+    [AddCommGroup N2] [Module R N2]
+    [AddCommGroup N3] [Module R N3]
+    (l12 : N1 →ₗ[R] N2) (l23 : N2 →ₗ[R] N3) :
+    Function.Exact l12 l23 ↔ Function.Exact (l12.rTensor M) (l23.rTensor M) :=
+  ⟨fun e => Module.Flat.iff_rTensor_exact.1 fl.toFlat e,
+    fun ex => rTensor_reflects_exact R M l12 l23 ex⟩
+
+lemma iff_exact_iff_rTensor_exact :
+    FaithfullyFlat R M ↔
+    (∀ (N1 N2 N3 : Type max u v)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:328]: Make sure to use the same implicitness as in the other statements in the `∀` condition (unless you have a good reason to not do so).

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean [hunk 29]
```diff
@@ -163,6 +169,186 @@ lemma iff_flat_and_lTensor_reflects_triviality :
...
+        Function.Exact l12 l23 ↔ Function.Exact (l12.rTensor M) (l23.rTensor M)) :=
+  ⟨fun fl => exact_iff_rTensor_exact R M, fun iff_exact =>
+    iff_flat_and_rTensor_reflects_triviality _ _ |>.2 ⟨Flat.iff_rTensor_exact.2 <| by aesop,
+    fun N _ _ h => subsingleton_iff_forall_eq 0 |>.2 <| fun y => by
+      simpa [eq_comm] using (iff_exact PUnit N PUnit 0 0 |>.2 fun x => by
+        simpa using Subsingleton.elim _ _) y⟩⟩
+
+lemma iff_exact_iff_lTensor_exact :
+    FaithfullyFlat R M ↔
+    (∀ (N1 N2 N3 : Type max u v)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/FaithfullyFlat.lean:342]: Same.

**Review by riccardobrasca — APPROVED** [review]
This looks great, thanks!

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 24 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:240]: hmm, I think I only have one goal here

Comment (riccardobrasca) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean:240]: I mean that there is an `exact ...` line not indented that close a goal. What happens next?

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 25 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: Yes, thanks for the suggestion

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 27 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: removed

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 28 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: I have changed everything to implicit variable

File: Mathlib/RingTheory/Flat/FaithfullyFlat.lean (hunk 24 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: Sorry I still don't get it. The `exact`-statement on line 240 closes the `have`-statement on line 236. I changed the tactic-mode proof to a term-mode one now.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Flat/FaithfullyFlat.lean]: I probably just misread the indentation in the github editor. Forget about it.
